US07122540B2
4-Ethoxy-N-ethyl-N-(2-hydroxyethyl)-3-(5,7-dimethyl-4-oxo-3,4-dihydro-imidazo[5,1-f]-[1,2,4]triazin-2-yl)benzenesulphonamide
By the same method, starting with 100 mg (0.261 mmol) of 4-ethoxy-3-(5,7-dimethyl-4-oxo-3,4-dihydroimidazo[5,1-f][1,2,4]triazin-2-yl)-benzenesulphonyl chloride and 70 mg (0.784 mmol) of 2-(ethylamino)-ethanol, 23 mg (20.1% of theory) of 4-ethoxy-N-ethyl-N-(2-hydroxyethyl)-3-(5,7-dimethyl-4-oxo-3,4-dihydroimindazo-[5,1-f][1,2,4]triazin-2-yl)-benzene-sulphonamide are obtained.

reactant | 4-ethoxy-3-(5,7-dimethyl-4-oxo-3,4-dihydroimidazo[5,1-f][1,2,4]triazin-2-yl)-benzenesulphonyl chloride | 0.261 mmol, 100 mg | C(C)OC1=C(C=C(C=C1)S(=O)(=O)Cl)C1=NN2C(C(N1)=O)=C(N=C2C)C | C15H15ClN4O4S
reactant | 2-(ethylamino)-ethanol | 0.784 mmol, 70 mg | C(C)NCCO | C4H11NO
product | 4-Ethoxy-N-ethyl-N-(2-hydroxyethyl)-3-(5,7-dimethyl-4-oxo-3,4-dihydro-imidazo[5,1-f]-[1,2,4]triazin-2-yl)benzenesulphonamide | C(C)OC1=C(C=C(C=C1)S(=O)(=O)N(CCO)CC)C1=NN2C(C(N1)=O)=C(N=C2C)C | C19H25N5O5S
